US08957064B2
Step 2: tert-Butyl 3-({2-[amino(6-methylpyridine-2-yl)methylene]hydrazino}carbonyl)azetidine-1-carboxylate
To a solution of 8.21 g (54.7 mmol) 1-(tert-butoxycarbonyl) azetidine-3-carboxylic acid in 80 mL dichloromethane are added 8.86 g (54.7 mmol) carbonyl diimidazole within 30 min. After stirring for five minutes 11 g (54.7 mmol) 6-methylpyridine-2-carbohydrazonamide are added and the reaction mixture is stirred at room temperature for 3 hours. The solvent has been evaporated and the residue is treated with water. The formed precipitate has been filtered off and dried yielding 16.47 g (81.3%) of the desired compound as a mixture of tautomers.

reactant | 1-(tert-butoxycarbonyl) azetidine-3-carboxylic acid | 54.7 mmol, 8.21 g | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | carbonyl diimidazole | 54.7 mmol, 8.86 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 6-methylpyridine-2-carbohydrazonamide | 54.7 mmol, 11 g | CC1=CC=CC(=N1)C(N)=NN | C7H10N4
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-({2-[amino(6-methylpyridine-2-yl)methylene]hydrazino}carbonyl)azetidine-1-carboxylate | 16.47 g, 81.3% | NC(=NNC(=O)C1CN(C1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)C | C16H23N5O3
